US09256099B2
In a 300-ml glass flask equipped with a thermometer, a reflux condenser and a stirrer, 4.0 g of 1-benzyl-3-phenylbarbituric acid, 1.6 g of benzaldehyde, and 40 ml of acetic acid were put, the content was added with a drop of sulfuric acid, kept under stirring, the flask was heated so as to adjust the inner temperature to 100° C., and the content was continued to be stirred at 100° C. for 3 hours. The content was then cooled to 50° C., added with a mixed solution of 39 ml of isopropanol and 17 ml of water, stirred at 10° C. or below for one hour, filtered under suction to collect a deposited crystal, and the crystal was washed with methanol, to thereby obtain 3.9 g of 1-benzyl-5-benzylidene-3-phenylbarbituric acid as an intermediate.

reactant | 1-benzyl-3-phenylbarbituric acid | 4.0 g | C(C1=CC=CC=C1)N1C(=O)N(C(=O)CC1=O)C1=CC=CC=C1 | C17H14N2O3
reactant | benzaldehyde | 1.6 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 17 ml | O | H2O
solvent | isopropanol | 39 ml | C(C)(C)O | C3H8O
product | 1-benzyl-5-benzylidene-3-phenylbarbituric acid | 3.9 g | C(C1=CC=CC=C1)N1C(=O)N(C(=O)C(C1=O)=CC1=CC=CC=C1)C1=CC=CC=C1 | C24H18N2O3
